US08168654B2
(R)-3-(2-Hydroxy-2,2-diphenyl-acetoxy)-1-(2-methylamino-ethyl)-1-azonia-bicyclo [2.2.2]octane bromide hydrobromide
(2-Bromo-ethyl)-methyl-carbamic acid tert-butyl ester (0.09 g, 0.38 mmol) is added to a solution of hydroxy-diphenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester (0.265 g, 0.79 mmol) in DMF (10 ml). The resulting mixture is heated at 60° C. for 5 hours and concentrated. This procedure is repeated twice giving the title compound as a mixture containing unreacted hydroxy-diphenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester.

reactant | (2-Bromo-ethyl)-methyl-carbamic acid tert-butyl ester | 0.38 mmol, 0.09 g | C(C)(C)(C)OC(N(C)CCBr)=O | C8H16BrNO2
reactant | hydroxy-diphenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester | 0.79 mmol, 0.265 g | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)(C2=CC=CC=C2)O)=O | C21H23NO3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (R)-3-(2-Hydroxy-2,2-diphenyl-acetoxy)-1-(2-methylamino-ethyl)-1-azonia-bicyclo [2.2.2]octane bromide hydrobromide | Br.[Br-].OC(C(=O)O[C@H]1C[N+]2(CCC1CC2)CCNC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C24H31N2O3.2BrH/c1-25-14-17-26-15-12-19(13-16-26)22(18-26)29-23(27)24(28,20-8-4-2-5-9-20)21-10-6-3-7-11-21;;/h2-11,19,22,25,28H,12-18H2,1H3;2*1H/q+1;;/p-1/t19?,22-,26?;;/m0../s1
